US06696467B2
A solution 0.1 g (0.27 mmol of 2-methyl-4,6-di-pyrrolidin-1-yl-quinolin-7-ylamine hydrochloride (×1.58 HCl), product of example 70 in acetic acid (0.22 ml) was treated with 0.1 ml (1.08 mmol) of acetic anhydride and then stirred at RT for 19 h. The reaction mixture was concentrated in vacuo, brought to pH 9 with conc. ammonia and then twice extacted with CH2CL2. The organic phase was washed with water saturated with brine and dried over magnesium sulfate. The solvent was removed in vacuo, the residue triturated with ether (10 ml) and treated tropwise with 0.3 ml of 3 N HCL in MeOH. The brown crystalline solid obtained was filtered off by suction and dried in a high vacuum to give 58.7 mg (89%) of N-(2-methyl-4,6-di-pyrrolidin-1-yl-quinolin-7-yl)-acetamide hydrochloride as a brown solid. ISP mass spectrum, m/e: 339.3 (M+1 calculated for C20H27N4O: 339).

reactant | 2-methyl-4,6-di-pyrrolidin-1-yl-quinolin-7-ylamine hydrochloride | 0.27 mmol | Cl.CC1=NC2=CC(=C(C=C2C(=C1)N1CCCC1)N1CCCC1)N
reactant | acetic anhydride | 1.08 mmol, 0.1 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | acetic acid | 0.22 ml | C(C)(=O)O | C2H4O2
product | N-(2-methyl-4,6-di-pyrrolidin-1-yl-quinolin-7-yl)-acetamide hydrochloride | 58.7 mg, 89% | Cl.CC1=NC2=CC(=C(C=C2C(=C1)N1CCCC1)N1CCCC1)NC(C)=O | InChI=1S/C20H26N4O.ClH/c1-14-11-19(23-7-3-4-8-23)16-12-20(24-9-5-6-10-24)18(22-15(2)25)13-17(16)21-14;/h11-13H,3-10H2,1-2H3,(H,22,25);1H
